US06034067
N-Ac-D-Phe-2-Nal-OMe was prepared according a similar manner as described in example 2 using N-Ac-D-Phe-OH and H-2-Nal-OMe.

reactant | N-Ac-D-Phe-OH | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)C | C11H13NO3
reactant | H-2-Nal-OMe | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)OC | C14H15NO2
product | N-Ac-D-Phe-2-Nal-OMe | N([C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)OC)C(=O)C | C25H26N2O4
